US05534518
This compound was prepared in a manner analogous to that of Example 13, using 11.0 grams (0.049 mole) of 2,4-diamino-5-chloro-6-nitroquinazoline and 1.0 gram of 10% platinum on carbon in 70 mL of 2-methoxyethanol and 130 mL of ethanol, yielding 2,4,6-triamino-5-chloroquinazoline.

reactant | 2,4-diamino-5-chloro-6-nitroquinazoline | 0.049 mole, 11.0 grams | NC1=NC2=CC=C(C(=C2C(=N1)N)Cl)[N+](=O)[O-] | C8H6ClN5O2
catalyst | platinum on carbon | 1.0 gram | [Pt] | Pt
solvent | 2-methoxyethanol | 70 mL | COCCO | C3H8O2
solvent | ethanol | 130 mL | C(C)O | C2H6O
product | 2,4,6-triamino-5-chloroquinazoline | NC1=NC2=CC=C(C(=C2C(=N1)N)Cl)N | C8H8ClN5
